US06911468B2
(2) Sodium (2R)-2-(4-{1-[3-(4-butylphenyl)propan-1-yl]-5-methyl-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoate
Ethanol (30 ml) and a solution of 1N sodium hydroxide in ethanol (2.74 ml) were added to (2R)-2-(4-{1-[3-(4-butylphenyl)propan-1-yl]-5-methyl-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoic acid (1.51 g, 3.05 mmol) and the mixture was concentrated. To the residue was added diisopropylether to give the object compound as a solid. 1.06 g (yield 67.0%)

reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | (2R)-2-(4-{1-[3-(4-butylphenyl)propan-1-yl]-5-methyl-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoic acid | 3.05 mmol, 1.51 g | C(CCC)C1=CC=C(C=C1)CCCN1C(=CC=C1C)C1=CC=C(O[C@@H](C(=O)O)CC2=CC=CC=C2)C=C1 | C33H37NO3
solvent | ethanol | 2.74 ml | C(C)O | C2H6O
solvent | Ethanol | 30 ml | C(C)O | C2H6O
product | Sodium (2R)-2-(4-{1-[3-(4-butylphenyl)propan-1-yl]-5-methyl-1H-pyrrol-2-yl}phenoxy)-3-phenylpropanoate | yield 67.0% | C(CCC)C1=CC=C(C=C1)CCCN1C(=CC=C1C)C1=CC=C(O[C@@H](C(=O)[O-])CC2=CC=CC=C2)C=C1.[Na+] | InChI=1S/C33H37NO3.Na/c1-3-4-9-26-14-16-27(17-15-26)12-8-23-34-25(2)13-22-31(34)29-18-20-30(21-19-29)37-32(33(35)36)24-28-10-6-5-7-11-28;/h5-7,10-11,13-22,32H,3-4,8-9,12,23-24H2,1-2H3,(H,35,36);/q;+1/p-1/t32-;/m1./s1
